US06997961B2
A. Synthesis of tert.butyl [3-amino-4-(2-hydroxyethoxy)phenyl]carbamate
A solution of 16.8 g of NaHCO3 in 100 mL of water was added dropwise to a solution of 10.7 g (100 mmol) of 2-(2,4-diaminophenoxy)ethanol in 300 mL of acetonitrile. Then, 22 g (100 mmol) of ditert.butyl dicarbonate was added, and the reaction mixture was allowed to agitate for 6 hours. At the end of the reaction, the reaction mixture was poured into 100 mL of dichloromethane, and the organic phase was extracted with dilute hydrochloric acid. The aqueous phase was rendered alkaline with a 2N sodium hydroxide solution [sic—Translator] and then extracted with dichloromethane. The organic phase was dried over sodium sulfate and the solvent was distilled off in a rotary evaporator. This gave 10.3 g (38% of the theoretical) of tert.butyl [3-amino-4-(2-hydroxyethoxy)phenyl]carbamate.

reactant | NaHCO3 | 16.8 g | C(=O)(O)[O-].[Na+]
reactant | 2-(2,4-diaminophenoxy)ethanol | 100 mmol, 10.7 g | NC1=C(OCCO)C=CC(=C1)N | C8H12N2O2
reactant | ditert.butyl dicarbonate | 100 mmol, 22 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | water | 100 mL | O | H2O
solvent | acetonitrile | 300 mL | C(C)#N | C2H3N
product | tert.butyl [3-amino-4-(2-hydroxyethoxy)phenyl]carbamate | NC=1C=C(C=CC1OCCO)NC(OC(C)(C)C)=O | C13H20N2O4
